US04889854
2.7 g of 10-chloro-N,N-diethyl-4-oxo-3-phenyl-4H-pyrido[2,1-a]phthalazine-1-carboxamide are suspended in 65 ml of tetrahydrofuran under argon, whereupon 150 mg of lithium borohydride are added thereto, the mixture is stirred at room temperature for 4 hours, an additional 75 mg of lithium borohydride are added thereto and the mixture is stirred further until the reaction finishes. The reaction mixture is poured into 300 ml of ice-water, whereby the product crystallizes out. The crude product is chromatographed on silica gel. By recrystallization from toluene, there is obtained 10-chloro-N,N-diethyl-6,7-dihydro-4-oxo-3-phenyl-4H-pyrido[2,1-a]phthalazine-1-carboxamide of m.p. 192°-194° (toluene).

reactant | 10-chloro-N,N-diethyl-4-oxo-3-phenyl-4H-pyrido[2,1-a]phthalazine-1-carboxamide | 2.7 g | ClC1=CC=C2C=NN3C(C2=C1)=C(C=C(C3=O)C3=CC=CC=C3)C(=O)N(CC)CC | C23H20ClN3O2
reactant | lithium borohydride | 150 mg | [BH4-].[Li+]
reactant | lithium borohydride | 75 mg | [BH4-].[Li+]
solvent | tetrahydrofuran | 65 ml | O1CCCC1 | C4H8O
product | 10-chloro-N,N-diethyl-6,7-dihydro-4-oxo-3-phenyl-4H-pyrido[2,1-a]phthalazine-1-carboxamide | ClC1=CC=C2CNN3C(C2=C1)=C(C=C(C3=O)C3=CC=CC=C3)C(=O)N(CC)CC | C23H22ClN3O2
